US08372842B2
A solution of tert-butyl 4-(1-(4-methoxybenzyl)-3-((1-(4-methoxybenzyl)-1H-pyrazol-4-yl)ethynyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.12 g, 0.169 mmol), quinoline (0.011 g, 0.085 mmol) and Lindlar's Catalyst (0.18 g, 0.085 mmol) in MeOH (3 mL) and benzene (3 mL) was charged with 1 atmosphere H2 and stirred at room temperature for 6 hours. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo, and the residue obtained was purified flash chromatography on silica gel (hexane:ethyl acetate=1:1) to give (Z)-tert-butyl 4-(1-(4-methoxybenzyl)-3-(2-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)vinyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.089 g, 74%) as a solid.

reactant | tert-butyl 4-(1-(4-methoxybenzyl)-3-((1-(4-methoxybenzyl)-1H-pyrazol-4-yl)ethynyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.169 mmol, 0.12 g | COC1=CC=C(CN2N=C(C=3C2=NC=C(C3N3CCN(CC3)C(=O)OC(C)(C)C)C3=CC=CC=C3)C#CC=3C=NN(C3)CC3=CC=C(C=C3)OC)C=C1 | C42H43N7O4
reactant | quinoline | 0.085 mmol, 0.011 g | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Lindlar's Catalyst | 0.085 mmol, 0.18 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | MeOH | 3 mL | CO | CH4O
solvent | benzene | 3 mL | C1=CC=CC=C1 | C6H6
product | (Z)-tert-butyl 4-(1-(4-methoxybenzyl)-3-(2-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)vinyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.089 g, 74% | COC1=CC=C(CN2N=C(C=3C2=NC=C(C3N3CCN(CC3)C(=O)OC(C)(C)C)C3=CC=CC=C3)\C=C/C=3C=NN(C3)CC3=CC=C(C=C3)OC)C=C1 | C42H45N7O4
